US03962438
2-(2,3-Dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,-3-kl]phenothiazine-1,3(2H)-dione
A mixture of 48.1 g. (0.0975 mol.) of 2-(2,3-diacetoxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione in 200 ml. of methanol and 25 ml. of concentrated hydrochloric acid was heated under reflux for 0.5 hour, then allowed to stand overnight at ambient temperature. The white solid that precipitated was isolated by filtration and washed with water to give the title compound, m.p. 159°-162° (chloroform).

reactant | 2-(2,3-diacetoxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | 0.0975 mol | C(C)(=O)OC(CN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O)COC(C)=O | C22H17F3N2O6S
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-(2,3-Dihydroxypropyl)-10-trifluoromethyl-1H-pyrimido[5,4,-3-kl]phenothiazine-1,3(2H)-dione | OC(CN1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O)CO | C18H13F3N2O4S
